US08207164B2
g) (2R*,5R*)-5-(3-Bromo-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine
To a solution of (2S*,5R*)-5-(3-bromo-phenyl)-2,5-dimethyl-2-trifluoromethyl-morpholine-3-thione (2.5 g, 6.79 mmol) in THF (25 ml) was added concentrated aqueous NH4OH (10.7 ml, 170 mmol) and 80% tert-butylhydroperoxide in H2O (4.25 ml, 33.9 mmol) and the reaction mixture was stirred for 3 h at 25° C. After addition of another 4.25 ml of 80% tert-butylhydroperoxide in H2O the reaction mixture was stirred overnight at 25° C. The reaction mixture was slowly added to concentrated sodium metabisulfite solution at 0-10° C., and after addition of 20% aqueous K2CO3 solution the product was extracted with EtOAc. Combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. The crude title product was used as such for the next transformation. A small amount was purified by flash-chromatography and transferred into the hydrochloride salt with 1N HCl in Et2O to provide the title compound as a white solid: TLC (EtOAc/MeOH 9:1): Rf=0.60; HPLC RtH5=1.024 min; 1H NMR (600 MHz, DMSO-d6): δ 11.55 (s, 1H), 9.54 (d, 2H), 7.74 (s, 1H), 7.60 (d, 1H), 7.51 (d, 1H), 7.42 (t, 1H), 4.15 (d, 1H), 4.06 (d, 1H), 1.75 (s, 3H), 1.66 (s, 3H); ESIMS: 351, 353 [(M+H)+].

reactant | (2S*,5R*)-5-(3-bromo-phenyl)-2,5-dimethyl-2-trifluoromethyl-morpholine-3-thione | 6.79 mmol, 2.5 g | BrC=1C=C(C=CC1)[C@@]1(CO[C@](C(N1)=S)(C(F)(F)F)C)C | C13H13BrF3NOS
reactant | NH4OH | 170 mmol, 10.7 ml | [NH4+].[OH-]
reactant | tert-butylhydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | tert-butylhydroperoxide | 4.25 ml | C(C)(C)(C)OO | C4H10O2
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | H2O | 33.9 mmol, 4.25 ml | O | H2O
product | (2R*,5R*)-5-(3-Bromo-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | BrC=1C=C(C=CC1)[C@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C | C13H14BrF3N2O
